US03974186
2,6-BIS[2-(DIETHYLAMINO)ETHOXY]ANTHRAQUINONE DIHYDROCHLORIDE
A stirred suspension of 30 g. of the powdered diphenoxide, containing about 24 g. (0.075 mole) of the dipotassium salt of 2,6-dihydroxyanthraquinone, in 200 ml. of xylene was heated to reflux and a small amount of water collected in the Dean-Stark distilling receiver. A solution of 2-diethylaminoethyl chloride in 100 ml. of xylene, prepared as in Example 1 from 50 g. (0.29 mole) of 2-diethylaminoethyl chloride hydrochloride, was then added and the resulting mixture heated to reflux for about 24 hours. The reaction mixture was poured into water and worked up exactly as in Example 1.

reactant | 2,6-dihydroxyanthraquinone | OC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | 2-diethylaminoethyl chloride hydrochloride | 0.29 mole | Cl.C(C)N(CCCl)CC
solvent | water | O | H2O
product | 2,6-BIS[2-(DIETHYLAMINO)ETHOXY]ANTHRAQUINONE DIHYDROCHLORIDE | Cl.Cl.C(C)N(CCOC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)OCCN(CC)CC)=O)CC | InChI=1S/C26H34N2O4.2ClH/c1-5-27(6-2)13-15-31-19-9-11-21-23(17-19)25(29)22-12-10-20(18-24(22)26(21)30)32-16-14-28(7-3)8-4;;/h9-12,17-18H,5-8,13-16H2,1-4H3;2*1H
